US04873329
A solution of 3,4-dichloroacetophenone (5.0 g.)in tetrahydrofuran (50 ml.) was added dropwise to a stirred solution of lithium diisopropylamide (prepared from n-butyl-lithium [19.8 ml. of a 1.6 molar solution in hexane] and diisopropylamine (4.3 ml.) in tetrahydrofuran (200 ml.) during 10 minutes at 0° C.) which was cooled to -78° C., and the mixture was stirred at -78° C. for 30 minutes and then at -50° C. for 45 minutes, and then recooled to -78° C. Anhydrous hexafluoroacetone (10 ml., generated by treating the sesquihydrate with concentrated sulphuric acid) was distilled into the mixture, which was then stirred for 1 hour at -78° C. Methanol (10 ml.) and saturated aqueous ammonium chloride solution (50 ml.) were added, the mixture was allowed to warm up to laboratory temperature and was poured into water (250 ml.) and the mixture was extracted with diethyl ether. The extract was washed with saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated to dryness under reduced pressure, and there was thus obtained as an oil 1-(3,4-dichlorophenyl)-4,4,4-trifluoro-3-hydroxy-3-trifluoromethylbutan-1-one which was used without further purification.

reactant | 3,4-dichloroacetophenone | CC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H6Cl2O
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | diisopropylamine | 4.3 ml | C(C)(C)NC(C)C | C6H15N
reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(3,4-dichlorophenyl)-4,4,4-trifluoro-3-hydroxy-3-trifluoromethylbutan-1-one | ClC=1C=C(C=CC1Cl)C(CC(C(F)(F)F)(C(F)(F)F)O)=O | C11H6Cl2F6O2
